US06093732
A mixture of 3-aminophenol (5.457 g) and diethyl ethoxymethylenemalonate (10.81 g) is heated to 130° C. for 2 h with removal of ethanol by a Dean-Stark trap. The reaction is cooled to 80° C. and 50 ml of diphenyl ether is added. The mixture is heated to 250° C. for 30 min with removal of ethanol by a Dean-Stark trap. The solution is cooled to 80° C. and the resulting solid is collected and washed with hexanes. A portion of this solid is adsorbed onto silica and chromatographed, eluting with 5% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and concentrated in vacuo to yield ethyl 4,5-dihydroxyquinoline-3-carboxylate as a gold solid. A mixture of this ester (0.125 g) and 4-chlorobenzylamine (0.379 g) are heated to 180° C. for 1 h. The solution is cooled to room temperature. The crude reaction is chromatographed on silica, eluting with 2% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and concentrated in vacuo. The residue is sonicated with CH2Cl2 /hexanes. The resulting solid is collected and dried to yield 0.050 g of the desired product as a pale-yellow solid.

reactant | 3-aminophenol | 5.457 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | diethyl ethoxymethylenemalonate | 10.81 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4,5-dihydroxyquinoline-3-carboxylate | OC1=C(C=NC2=CC=CC(=C12)O)C(=O)OCC | C12H11NO4
